US05672611
B. 1-N-ACETYL-4-PIPERIDINYLACETIC ACID
4-Piperidinylacetic acid (5 grams) (35.0 mmoles) was reacted with acetic anhydride (10.7 grams) (105.0 mmoles) in MeOH (100 ml.) and the mixture was stirred at 25° C. for 24 hours. The mixture was evaporated to dryness and the residue was azeotroped with toluene to give the title compound (Yield: 6.4 grams, 99%, MH+ 185).

reactant | 4-Piperidinylacetic acid | 35.0 mmoles, 5 grams | N1CCC(CC1)CC(=O)O | C7H13NO2
reactant | acetic anhydride | 105.0 mmoles, 10.7 grams | C(C)(=O)OC(C)=O | C4H6O3
solvent | MeOH | 100 ml | CO | CH4O
product | 1-N-ACETYL-4-PIPERIDINYLACETIC ACID | Yield: 6.4 grams, 99% | C(C)(=O)N1CCC(CC1)CC(=O)O | C9H15NO3
